### ISSUE TITLE
fun_induction with identifiers confused by metavariables

### ISSUE THREAD

**Issue by nomeata** [leanprover/lean4#9844]
As [reported on zulip](https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/Bug.20in.20.60fun_induction.60.20tactic/near/533616730), this fails when it probably shouldn’t:

```lean
def ack : Nat → Nat → Nat
  | 0,   y   => y+1
  | x+1, 0   => ack x 1
  | x+1, y+1 => ack x (ack (x+1) y)

def ack' : Nat → Nat → Nat
  | 0,   y   => y+1
  | x+1, 0   => ack' x 1
  | x+1, y+1 => ack' x (ack' (x+1) y)

theorem ack'_eq_ack_works (i x : Nat) : ack' i x = ack i x := by
  fun_induction ack with
  | case1 => sorry
  | case2 => sorry
  | case3 => sorry

theorem ack'_eq_ack_fails : ack' = ack := by
  ext i x
  fun_induction ack with   -- Could not find a suitable call of 'ack' in the goal
  | case1 => sorry
  | case2 => sorry
  | case3 => sorry
```

The component of `fun_induction` that finds a suitable call should instantiate metavariables first.

### Version

Lean 4.23.0-nightly-2025-08-10
